US08685991B2
Part A. Preparation of N-(4-bromo-2-fluoro-5-methylphenyl)methanesulfonamide
To a solution of 4-bromo-2-fluoro-5-methylaniline (2.04 g, 10.0 mmol) in anhydrous CH2Cl2 (20 ml) and pyridine (3.23 ml, 40.0 mmol) was added methanesulfonyl chloride (0.86 ml, 11.0 mmol) and the resulting mixture was stirred at room temperature for 2 h. Solvent was removed in vacuo, and the residue was partitioned between EtOAc and 1M aq. HCl. The organic layer was washed with saturated aqueous NaHCO3, brine and then dried over Na2SO4. The drying agent was filtered off, and the filtrate was concentrated to give the title compound as a solid (2.80 g, 99%).

reactant | 4-bromo-2-fluoro-5-methylaniline | 10.0 mmol, 2.04 g | BrC1=CC(=C(N)C=C1C)F | C7H7BrFN
reactant | pyridine | 40.0 mmol, 3.23 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 11.0 mmol, 0.86 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(4-bromo-2-fluoro-5-methylphenyl)methanesulfonamide | 2.80 g, 99% | BrC1=CC(=C(C=C1C)NS(=O)(=O)C)F | C8H9BrFNO2S
